US05773463
(±)cis-1-(3-Phenylphenoxy)-2-tert-butoxycarbonylaminoindane
A solution of (±) N-tert-butoxycarbonyl-1,2-iminoindane (5 g, 22 mmol), 3-phenylphenol (3.75 g, 22 mmol) and pyridinium p-toluenesulfonate (114 mg) in chloroform (150 ml) was heated at reflux for 2 h. On cooling, the solution was washed sequentially with 10% aq. NaOH, water and then brine. After drying over MgSO4, solvents were removed in vacuo and the resultant brown oil subjected to column chromatography on silica gel eluting with 20% diethyl ether in hexanes to afford the title compound (3.11 g).

reactant | (±) N-tert-butoxycarbonyl-1,2-iminoindane | 22 mmol, 5 g | C(C)(C)(C)OC(=O)N1C2C1CC1=CC=CC=C21 | C14H17NO2
reactant | 3-phenylphenol | 22 mmol, 3.75 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridinium p-toluenesulfonate | 114 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | (±)cis-1-(3-Phenylphenoxy)-2-tert-butoxycarbonylaminoindane | 3.11 g | C1(=CC=CC=C1)C=1C=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=CC1 | C26H27NO3
